* VTL5C3 from LTSpice model by Tom Gootee
* modified by Cody Sorgenfrey

.subckt VTL5C3 LED+ LED- LDR1 LDR2
  * In LED
  D1 LED+ LED- NSPW500BS
  
  B1 IE1 0 I={i(D1)*1000}
  R2 IE1 0 1
  R5 IE1 ID1 1K
  C1 ID1 0 10nF
  * table entries (x = led current mA, y = LDR resistance 1000/Ohms)
  G1 IG1 0 TABLE {v(ID1)}=((.074,0.0005) (0.1,0.00111) (0.12,0.001934) (0.13,0.00250) (0.14,0.00313) (0.15,0.00383) (0.17,0.00501) (0.2,0.00714) (0.3,0.0156) (0.4,0.0286) (0.5,0.0443) (0.6,0.0588) (0.7,0.0769) (0.8,0.100) (0.9,0.123) (1.0,0.139) (2.0,0.370) (3.0,0.625) (4.0,0.820) (5.0,1.00) (6.0,1.25) (7.0,1.429) (8.0,1.67) (9.0,1.92) (10.0,2.00) (20,3.125) (30,3.57) (40,4.55) )
  R3 IG1 0 1
  B3 IG1 CB2 I={sqrt(abs(v(IG1,CB2)))*v(IG1,CB2)*0.001}
  R1 IG1 CB2 5k
  C3 CB2 0 17.5uF
  R4 CB2 0 10Meg
  
  * Out current
  B2 LDR2 LDR1 I={0.001*V(CB2)*V(LDR1,LDR2)}
  C2 LDR2 LDR1 100nF
.ends

.model NSPW500BS D (Is=0.27n Rs=5.65 N=6.79 Cjo=42p Xti=200)

*  mA    Ohms         1000/Ohms
*  ---------------------------
*  0.2	  1000000.00   0.001000
*  0.3	  500000.00	   0.002000
*  0.4	  300000.00	   0.003333
*  0.5	  180000.00	   0.005556
*  0.6	  125000.00	   0.008000
*  0.7	  90000.00	   0.011111
*  0.8	  75000.00	   0.013333
*  0.9	  61000.00	   0.016393
*  1	    55000.00	   0.018182
